US08426604B2
4-({5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-4-oxo-4,5-dihydro-thiazol-2-yl}-methyl-amino)-pyrrolidine-2-carboxylic acid methoxy-amide
To a solution of 4-({5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-4-oxo-4,5-dihydro-thiazol-2-yl}-methyl-amino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (0.066 g, 0.1 mmol) and methoxyamine hydrochloride (0.014 g, 0.15 mmol) in DMF (2 mL) was added EDC hydrochloride (0.03 g, 0.15 mmol) followed by DIPEA (0.3 mL, 1.72 mml). The reaction mixture was stirred at room temperature for 16 hours and partitioned between water and dichloromethane. The dichloromethane layer was washed with brine, dried over Na2SO4, filtered, and the solvent evaporated in vacuo to yield a crude solid. The crude solid was purified via flash chromatography (100% ethyl acetate) to yield the title compound.

reactant | 4-({5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-4-oxo-4,5-dihydro-thiazol-2-yl}-methyl-amino)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.1 mmol, 0.066 g | C(C)(C)(C)OC(=O)N1C(CC(C1)N(C)C=1SC(C(N1)=O)=CC=1C=C2C=NN(C2=CC1)CC1=C(C=C(C=C1)Cl)C(F)(F)F)C(=O)O | C30H29ClF3N5O5S
reactant | methoxyamine hydrochloride | 0.15 mmol, 0.014 g | Cl.CON
reactant | EDC hydrochloride | 0.15 mmol, 0.03 g | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-({5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-4-oxo-4,5-dihydro-thiazol-2-yl}-methyl-amino)-pyrrolidine-2-carboxylic acid methoxy-amide | CONC(=O)C1NCC(C1)N(C)C=1SC(C(N1)=O)=CC=1C=C2C=NN(C2=CC1)CC1=C(C=C(C=C1)Cl)C(F)(F)F | C26H24ClF3N6O3S
